US07977358B2
E] 3-(Acetylamino-methyl)-5-cyclopropyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
A solution of 3-aminomethyl-5-cyclopropyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester (46 mg, 0.12 mmol) and iPr2NEt (0.06 ml, 0.37 mmol) in 0.5 ml THF under ice cooling was treated with acetylchloride (0.011 ml, 0.15 mmol). The yellow suspension was stirred 2 h at 0° C., then diluted with EtOAc and washed with water and brine. The aqueous phases were extracted with EtOAc. The organic layers were dried over magnesium sulfate, evaporated and chromatographed (amino-phase silica gel, EtOAc) to give the title compound as a yellow oil (37 mg, 72%). MS: 412.3 (MH+).

reactant | 3-aminomethyl-5-cyclopropyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.12 mmol, 46 mg | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)CN | C17H18F3N3O3
reactant | iPr2NEt | 0.37 mmol, 0.06 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 0.15 mmol, 0.011 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(Acetylamino-methyl)-5-cyclopropyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 37 mg, 72% | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)CNC(C)=O | C19H20F3N3O4
